US07485640B2
5′-(7-Ethyl-8-oxo-7,8-dihydroimidazo[1,2-a]pyrazin-3-yl)-2′-fluorobiphenyl-2-carbonitrile
A suspension of 2′-fluoro-5′-(8-oxo-7,8-dihydroimidazo[1,2-a]pyrazin-3-yl)biphenyl-2-carbonitrile (50.0 mg, 0.51 mmol) in 1,2-dimethoxyethane (2 ml) and N,N-dimethylformamide (0.5 ml) was treated with sodium hydride (6.4 mg of a 60% dispersion in mineral oil, 0.16 mmol). After stirring at ambient temperature for 10 min, lithium bromide (26.3 mg, 0.30 mmol) was added, and stirring continued for 15 min. Iodoethane (24.2 μl, 0.30 mmol) was added and the solution heated at 65° C. for 18 h. Water (15 ml) was added and the resulting mixture was extracted with dichloromethane (3×10 ml). The combined organic layers were washed with water (10 ml), saturated sodium chloride solution (10 ml), dried over anhydrous magnesium sulphate then concentrated in vacuo. The crude product was purified by flash chromatography on silica gel, eluting with 2% methanol in dichloromethane. Crystallisation from methanol afforded the title compound as a white solid (23.9 mg, 44%): δH (500 MHz, CDCl3) 1.38 (3H, t, J 7.2), 4.06 (2H, q, J 7.2), 6.72 (1H, d, J 5.9), 7.39 (1H, t, J 9.3), 7.44 (1H, d, J 5.9), 7.53-7.61 (5H, m), 7.69-7.73 (1H, m), 7.84 (1H, d, J 7.3); m/z (ES+) 359 [M+H]+.

reactant | 2′-fluoro-5′-(8-oxo-7,8-dihydroimidazo[1,2-a]pyrazin-3-yl)biphenyl-2-carbonitrile | 0.51 mmol, 50.0 mg | FC1=C(C=C(C=C1)C1=CN=C2N1C=CNC2=O)C=2C(=CC=CC2)C#N | C19H11FN4O
reactant | sodium hydride | [H-].[Na+]
reactant | lithium bromide | 0.30 mmol, 26.3 mg | [Br-].[Li+]
reactant | Iodoethane | 0.30 mmol, 24.2 μl | ICC | C2H5I
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | Water | 15 ml | O | H2O
product | 5′-(7-Ethyl-8-oxo-7,8-dihydroimidazo[1,2-a]pyrazin-3-yl)-2′-fluorobiphenyl-2-carbonitrile | 23.9 mg, 44% | C(C)N1C(C=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC=CC2)C#N)F)=O | C21H15FN4O
